US08034949B2
To a solution of 1-benzyloxycarbonyl-3-pyrroline (5.0 g) in methylene chloride (125 mL) was added 3-chloroperbenzoic acid (12.17 g) and the mixture was stirred at room temperature for 3 days. To the reaction mixture was added a saturated sodium thiosulfate solution (100 mL) and the mixture was stirred for 30 minutes. The reaction mixture was extracted with chloroform (×2) and the extract was washed successively with 2N sodium hydroxide solution (100 mL×2) and a saturated brine. The organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo to give benzyl 6-oxa-3-azabicyclo[3,1,0]hexan-3-carboxylate (5.58 g, yield: 100%) as an oil.

reactant | 1-benzyloxycarbonyl-3-pyrroline | 5.0 g | C(C1=CC=CC=C1)OC(=O)N1CC=CC1 | C12H13NO2
reactant | 3-chloroperbenzoic acid | 12.17 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | 100 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
product | benzyl 6-oxa-3-azabicyclo[3,1,0]hexan-3-carboxylate | 5.58 g, yield: 100% | C12CN(CC2O1)C(=O)OCC1=CC=CC=C1 | C12H13NO3
